US08293798B2
Methyl 4-[({[2-chloro-5-({[3-(methyloxy)phenyl]methyl}oxy)phenyl]carbonyl}amino)methyl]benzoate
A solution of methyl 4-({[(2-chloro-5-hydroxyphenyl)carbonyl]amino}methyl)benzoate (95 mg, 0.3 mol), potassium carbonate (2 eq, 83 mg, 0.6 mmol) and 1-(bromomethyl)-3-(methyloxy)benzene (1.2 eq, 50 ul, 0.36 mmol) in DMF (2 ml) was stirred at room temperature for 2 hours. The mixture was then diluted with ethyl acetate (100 ml) and H2O (80 ml). Layers separated, organic layer washed with brine (80 ml) then dried and evaporated in vacuo. Residue purified by column chromatography (Biotage SP4) eluting with 0-40% ethylacetate in hexanes to give the title compound as a clear oil. MS (ES+) m/z 440 [M+H]+ (C24H2235ClNO5). 1H-NMR (400 MHz, d6-DMSO) δ 3.76 (3H, s), 3.85 (3H, s), 4.51 (2H, d, J 6), 5.12 (2H, s), 6.89-7.96 (11H, m), 7.46 (2H, d, J 8.4), 7.92 (2H, m), 9.05 (1H, J 6).

reactant | methyl 4-({[(2-chloro-5-hydroxyphenyl)carbonyl]amino}methyl)benzoate | 0.3 mol, 95 mg | ClC1=C(C=C(C=C1)O)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C16H14ClNO4
reactant | potassium carbonate | 0.6 mmol, 83 mg, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-3-(methyloxy)benzene | 0.36 mmol, 50 ul, 1.2 eq | BrCC1=CC(=CC=C1)OC | C8H9BrO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | H2O | 80 ml | O | H2O
product | Methyl 4-[({[2-chloro-5-({[3-(methyloxy)phenyl]methyl}oxy)phenyl]carbonyl}amino)methyl]benzoate | ClC1=C(C=C(C=C1)OCC1=CC(=CC=C1)OC)C(=O)NCC1=CC=C(C(=O)OC)C=C1 | C24H22ClNO5
